US06784137B2
A mixture of (4,5,6-trichloropyridin-2-yl)methanol (3.83 g, 18 mmol) and manganese (IV) oxide (7.8 g, 90 mmol) in dichloromethane (50 mL) was stirred at room temperature for 24 hours. More manganese (IV) oxide (4 g, 46 mmol) was added and stirring was continued. After another 24 hours, the reaction mixture was suction filtered through a silica gel plug (10 g). After washing the silica gel plug with additional dichloromethane (2×25 mL), manganese (IV) oxide (8 g, 92 mmol) was added to the filtrate, and the mixture was stirred at room temperature for 72 hours. The reaction mixture was refiltered and the solvent was removed to provide 4,5,6-trichloropyridine-2-carbaldehyde (2.36 g, 11.4 mmol), mp 84-88° C.

reactant | (4,5,6-trichloropyridin-2-yl)methanol | 18 mmol, 3.83 g | ClC1=CC(=NC(=C1Cl)Cl)CO | C6H4Cl3NO
solvent | dichloromethane | 50 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 25 mL | ClCCl | CH2Cl2
catalyst | manganese (IV) oxide | 90 mmol, 7.8 g | [O-2].[Mn+4].[O-2]
catalyst | manganese (IV) oxide | 46 mmol, 4 g | [O-2].[Mn+4].[O-2]
catalyst | manganese (IV) oxide | 92 mmol, 8 g | [O-2].[Mn+4].[O-2]
product | 4,5,6-trichloropyridine-2-carbaldehyde | 11.4 mmol, 2.36 g | ClC1=CC(=NC(=C1Cl)Cl)C=O | C6H2Cl3NO
